US06297260B1
48a. Ethyl 1-(2-methyl-2-sulfanylpropyl)piperidine-4-carboxylate
Ethyl piperidine-4-carboxylate (3.6 g, 22.9 mmol) was dissolved in benzene (5 mL), and 2,2-dimethylthiirane (5.04 g, 57.3 mmol) was added. The reaction mixture was stirred at 80° C. for 20 hours, poured into water and extracted several times with EtOAc. The combined organic extracts were washed with brine and dried over anhydrous sodium sulfate. The volatiles were evaporated and the residue was dried under vacuum to afford 5.45 g (97%) of the title compound. 1H NMR (300 MHz, CD3OD) δ 4.12 (q, J=7.1 Hz, 2H), 2.92-2.96 (d, J=11.9 Hz, 2H), 2.19-2.40 (m, 6H), 1.61-1.86 (m, 4H), 1.29 (s, 6H), 1.25 (t, J=7.1 Hz, 2H).

reactant | Ethyl piperidine-4-carboxylate | 22.9 mmol, 3.6 g | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | 2,2-dimethylthiirane | 57.3 mmol, 5.04 g | CC1(SC1)C | C4H8S
reactant | water | O | H2O
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
product | Ethyl 1-(2-methyl-2-sulfanylpropyl)piperidine-4-carboxylate | 5.45 g, 97% | CC(CN1CCC(CC1)C(=O)OCC)(C)S | C12H23NO2S
